US04771054
8-Chloro-1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinoline carboxylic acid
A suspension of 1.1 g (3.36 mmol) of ethyl 8-chloro-1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate, 10 ml of 6N hydrochloric acid, and 1 ml of tetrahydrofuran was refluxed for 21/2 hours. The mixture was cooled to room temperature, and the solids were filtered, washed with water and ether, and dried to give 0.76 g of the title compound as a white powder, m.p. 189°-191° C.

reactant | ethyl 8-chloro-1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 3.36 mmol, 1.1 g | ClC=1C(=C(C=C2C(C(=CN(C12)C1CC1)C(=O)OCC)=O)F)F | C15H12ClF2NO3
reactant | hydrochloric acid | 6N, 10 ml | Cl | ClH
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 8-Chloro-1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinoline carboxylic acid | 0.76 g | ClC=1C(=C(C=C2C(C(=CN(C12)C1CC1)C(=O)O)=O)F)F | C13H8ClF2NO3
